US07163947B2
N-Cyclohexyl-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-amine (0.425 g, 1.25 mmol) was placed in a 100 mL round bottom flask and dissolved in dichloromethane (20 mL). Ammonium hydroxide solution (10 mL) was added and the mixture was stirred vigorously. The stirred mixture was chilled in an ice water bath. Para-toluenesulfonyl chloride (0.250 g, 1.31 mmol) was added over 5 min. After 30 min of stirring at 0° C. TLC (SiO2, 95:5 chloroform:methanol) showed complete conversion. The mixture was warmed to room temperature and then diluted with dichloromethane (25 mL) and water (10 mL). The mixture was transferred to a separatory funnel and the phases separated. The organic portion was washed sequentially with 2% sodium carbonate solution (15 mL), water (15 mL) and brine (15 mL), dried over Na2SO4, filtered and then concentrated to yield an orange/tan foamy solid. The material was purified by column chromatography (40 g SiO2, 95:5 chloroform:methanol) to yield the product as an off white solid. The off-white solid was dissolved in 3 mL of a 9:1 chloroform:methanol mixture. A small spatula tip full of activated carbon (DARCO G 60–100 mesh) was added and the mixture was stirred at room temperature for 3 h. The mixture was filtered through a short column of SiO2 (5 g) eluting with 9:1 chloroform:methanol. The filtrate was concentrated to yield a glassy solid. The glassy solid was triturated in 15 mL diethyl ether for 2 h to provide a white solid. The solid was collected by vacuum filtration and rinsed with diethyl ether. The solid was dried in a vacuum oven (70° C.) to yield 0.062 g of N1-cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine. mp 143–145° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.61 (dd, J=8.1, 1.1 Hz, 1H), 7.58 (dd, J=8.3, 0.9 Hz, 1H), 7.46–7.38 (m, 1H), 7.28–7.21 (m, 1H), 6.99 (d, J=1.9 Hz, 1H), 6.69 (s, 2H), 4.77 (s, 2H), 3.63 (q, J=7.0 Hz, 2H), 3.32–3.23 (m, 1H), 1.71–1.52 (m, 5H), 1.30–1.05 (m, 8H); 13C NMR (75 MHz, DMSO-d6) δ; MS m/z 152.1, 150.3, 145.0, 133.4, 127.4, 125.8, 123.9, 121.6, 121.1, 115.0, 65.8, 63.1, 59.8, 30.9, 25.8, 24.3, 15.4; MS m/z 340 (M+H)+; Anal. Calcd for C19H25N5O: C, 67.23; H, 7.42; N, 20.63; Found: C, 67.32; H, 7.37; N, 20.55.

reactant | N-Cyclohexyl-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-amine | 1.25 mmol, 0.425 g | C1(CCCCC1)NN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])COCC | C19H24N4O2
reactant | Ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | Para-toluenesulfonyl chloride | 1.31 mmol, 0.250 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | methanol | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N1-cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.062 g | C1(CCCCC1)NN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C19H25N5O
